US08334236B2
(4) Production of 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid
2.4 g (10.4 mmol) of ethyl 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate was dissolved in 1,4-dioxane (50 mL), and 0.65 g (15 mmol) of lithium hydroxide monohydrate and 10 mL of water were added to the solution at room temperature. The resulting mixture was stirred for 24 hours at room temperature. The reaction mixture was poured into an aqueous solution of sodium hydrogen carbonate, and the mixture was washed with ethyl acetate. The aqueous phase was acidified with citric acid, and then the mixture was extracted with chloroform. The organic phase was washed with water, dried, and concentrated. The residue thus obtained was washed with ethyl acetate, and thus 2.02 g (yield: 96%) of the title compound was obtained as light yellow crystals.

reactant | ethyl 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylate | 10.4 mmol, 2.4 g | CN1C(C(=CC2=CC=CC=C12)C(=O)OCC)=O | C13H13NO3
reactant | lithium hydroxide monohydrate | 15 mmol, 0.65 g | O.[OH-].[Li+]
reactant | water | 10 mL | O | H2O
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1-methyl-2-oxo-1,2-dihydroquinoline-3-carboxylic acid | 2.02 g, yield: 96% | CN1C(C(=CC2=CC=CC=C12)C(=O)O)=O | C11H9NO3
